### PR TITLE
[Merged by Bors] - feat(RingTheory): add `MvPowerSeries.inv_pow` and `PowerSeries.inv_pow`

### PR DESCRIPTION
**Pull request by Maldooor**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 1]
```diff
@@ -272,6 +272,11 @@ instance : InvOneClass (MvPowerSeries σ k) :=
       rw [MvPowerSeries.inv_eq_iff_mul_eq_one, mul_one]
       simp }
 
+@[simp]
+theorem inv_pow (φ : MvPowerSeries σ k) : ∀ n : ℕ, φ⁻¹ ^ n = (φ ^ n)⁻¹
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean]:
```suggestion
protected theorem inv_pow (φ : MvPowerSeries σ k) : ∀ n : ℕ, φ⁻¹ ^ n = (φ ^ n)⁻¹
```

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 2]
```diff
@@ -186,6 +186,9 @@ theorem inv_eq_iff_mul_eq_one {φ ψ : k⟦X⟧} (h : constantCoeff ψ ≠ 0) :
 protected theorem mul_inv_rev (φ ψ : k⟦X⟧) : (φ * ψ)⁻¹ = ψ⁻¹ * φ⁻¹ :=
   MvPowerSeries.mul_inv_rev _ _
 
+theorem inv_pow (φ : k⟦X⟧) : ∀ n : ℕ, φ⁻¹ ^ n = (φ ^ n)⁻¹ :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean]:
```suggestion
protected theorem inv_pow (φ : k⟦X⟧) : ∀ n : ℕ, φ⁻¹ ^ n = (φ ^ n)⁻¹ :=
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by Maldooor** [comment]
-awaiting-author

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 3]
```diff
@@ -272,6 +272,11 @@ instance : InvOneClass (MvPowerSeries σ k) :=
       rw [MvPowerSeries.inv_eq_iff_mul_eq_one, mul_one]
       simp }
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:274]: Does it work to instead add
```lean
noncomputable instance : DivInvMonoid (MvPowerSeries σ R) where
```
then `inv_pow` should resolve to the existing lemma?

Comment (Maldooor) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:274]: > Does it work to instead add
> 
> ```lean
> noncomputable instance : DivInvMonoid (MvPowerSeries σ R) where
> ```
> 
> then `inv_pow` should resolve to the existing lemma?

I can add the instance but the existing `inv_pow` requires `DivisionMonoid` which `(MvPowerSeries σ R)` doesn't satisfy. Maybe the current `inv_pow` it can be generalized to only require `InvOneClass` and `DivInvMonoid` but trying that I get the error

> ⚠️ `[InvOneClass β]` and `[DivInvMonoid β]` can be used to infer conflicting versions of `[Inv β]`.

which I don't know how to fix.

Comment (jcommelin) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:274]: Hmm, I guess that means we're missing a typeclass in the hierarchy.
But I don't think we should add that class if it only helps with these two lemmas. If another handful of examples would show up, then we should reconsider.

Thanks :tada:

bors merge
